US07592373B2
3-pyridin-3-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide
Prepared analogously to Example 2.3.f. from pyridin-3-ylpropynoic acid and [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine. Yield: 0.42 g (66.4% of theory); melting point: 118° C.-120° C.; C20H22ClN3O2 (M=371.86); calc.: molecular ion peak (M+H)+: 372/374; found: molecular ion peak (M+H)+: 372/374; Rf value: 0.4 (silica gel, dichloromethane/methanol/ammonia (9:1:0.1)).

reactant | pyridin-3-ylpropynoic acid | N1=CC(=CC=C1)C#CC(=O)O | C8H5NO2
reactant | [2-(2-chloro-4-aminophenoxy)ethyl]diethylamine | ClC1=C(OCCN(CC)CC)C=CC(=C1)N | C12H19ClN2O
reactant | dichloromethane methanol ammonia | ClCCl.CO.N
product | 3-pyridin-3-ylpropynoic acid-[3-chloro-4-(2-diethylaminoethoxy)phenyl]amide | ClC=1C=C(C=CC1OCCN(CC)CC)NC(C#CC=1C=NC=CC1)=O | C20H22ClN3O2
